US04178371
(1) PhCH2OCONHCH2CH2NHCONMe2
A solution of dimethylcarbamoyl chloride (1.39 g) in diethyl ether (15 ml) was added dropwise to a stirred solution of NMM (1.57 g) and 2-benzyloxycarbonylaminoethylamine (3.02 g) in diethyl ether (110 ml). The mixture was stirred for four hours and allowed to stand for two days. After evaporation of the ether the residual solid was partitioned between 10% aqueous citric acid and ethyl acetate. The ethyl acetate extracts were washed with 10% aqueous citric acid, saturated sodium bicarbonate solution, and saturated sodium chloride solution, and then dried (Na2SO4) and evaporated to give a solid (1.7 g). A sample crystallised from ethyl acetate/patroleum ether (bp 60°-80°) m.p. 81°-82°.

reactant | dimethylcarbamoyl chloride | 1.39 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | NMM | 1.57 g | CN1CCOCC1 | C5H11NO
reactant | 2-benzyloxycarbonylaminoethylamine | 3.02 g | C(C1=CC=CC=C1)OC(=O)NCCN | C10H14N2O2
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 110 ml | C(C)OCC | C4H10O
product | PhCH2OCONHCH2CH2NHCONMe2 | 1.7 g | C1(=CC=CC=C1)COC(=O)NCCNC(=O)N(C)C | C13H19N3O3
